US05719157
Oily sodium hydride (60%, 0.1 g) was added to a solution of ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2(1H)-quinolone-3-carboxylate (0.5 g) in N,N-dimethylformamide (20 ml) under ice-cooling. After stirring at room temperature for 30 minutes, 2-bromopropane (0.5 ml) was added. The mixture was stirred at 60° C. for 5 hours, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate. Evaporation of the solvent gave ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-isopropoxyquinoline-3-carboxylate (0.388 g, 70%) which was then recrystallized from ethyl ether. mp. 142°-143° C.

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2(1H)-quinolone-3-carboxylate | 0.5 g | COC=1C=C2C(=C(C(NC2=CC1OC)=O)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C22H23NO7
reactant | 2-bromopropane | 0.5 ml | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-isopropoxyquinoline-3-carboxylate | 0.388 g, 70% | COC=1C=C2C(=C(C(=NC2=CC1OC)OC(C)C)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C25H29NO7
